Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old M with for CAD (s/p CABG), 
paroxsymal atrial fibrillation (not on AC), bioprosthetic AVR, 
and h/o GI bleeding who presented to the ED on ___ ___nd confusion.  
 In the ED, initial vitals were: 97.8 52 144/43 16 98% RA  
 - Exam notable for: "No pain to palpation anywhere, strength 
and sensation intact, no belly tenderness"  
 - Labs notable for: Hb 11.8, BUN 31, Cr 1.5, negative serum 
tox, negative urine tox, urine with small leuks, negative 
nitrite, 5 wbcs, few bacteria  
 - Imaging was notable for:  
 --> CT head w/o acute intracranial process  
 --> CT C-spine w/no acute fracture or acute change in alignment 
of the cervical spine  
 --> CXR w/bibasilar opacities likely reflect mild pulmonary 
edema and atelectasis however infection should be considered in 
the appropriate clinical setting.  
 --> B/l Foot plain films: No acute fracture or dislocation 
involving either foot.  
 --> B/l Knee plain films: No acute fracture or dislocation.  
 - Patient was given: IV ceftriaxone 1 gram and IV azithromycin 
500 mg  
 - Vitals prior to transfer: 97.8 61 119/60 18 98% RA  
 Upon arrival to the floor, patient is accompanied by his 
daughter, ___, who helps with the history. She reports that 
last ___ and this ___ the patient had 
several unwitnessed falls. The patient is very unsteady on his 
feet and she believes that this is why he falls. She denies 
prodromal sx such as lightheadedness or dizziness, but can't be 
sure. After he has fallen he has had more confusion and 
disorientation than usual. She heard him talking to her in his 
bed alone asking where his deceased brother was. She also 
reports that he had "several days of tremors" after his falls on 
___. He did not lose consciousness after these falls as he 
called for help after them. There was no biting of the tongue. 
He has urinary incontinence at baseline. No excessive shaking 
after falls. She denies other sx such as worsening cough (has 
baseline cough from PND), abdominal pain, n/v, diarrhea. No 
fevers or chills at home. She does say he has been constipated. 
No CP or SOB. ___ says his mental status on day of 
admission has improved and is at his baseline.  
 He lives with ___. She says that he does not have formal 
diagnosis of dementia. At baseline, he is able to name his 
family members but does not know the day or time. He does not 
make his own food. He refuses to shower. He stays in his 
underwear all day. Spends most of the day in bed or in a chair 
watching TV. He is able to swallow without difficulty. Elder 
services visits for 3 hours per week. They have had nursing 
services in the past, but he doesn't benefit because he will not 
participate. He walks with a walker at home but is very 
unsteady. Has pain in his feet per ___ and she has been 
unable to get him to stand over the last few days.  
 When I asked ___ what brought him to the hospital, he tells 
me "I don't know why I am here." He then repeatedly asked me why 
he was here after I told him several times that it was due to 
falls.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
 
Past Medical History:
 - CAD s/p NSTEMI ___ and CABG  
 - Bioprosthetic AVR (___)  
 - ? CHF with report of "mild systolic dysfunction, mild global  

 hypokinesis of posterior wall (EF 60%)" but normal TEE in ___  

 - H/o MSSA epidural abscess (s/p T1-T5 laminectomy in ___,  
 source unclear  
 - Hypertension  
 - Gastritis  
 - Depression  
 - Prostate CA (s/p radiation therapy)  
 - Polymyalgia rheumatica  
 - H/o GI bleed  
 
Social History:
___
Family History:
Reviewed in detail.  None pertinent to this hospitalization
 
Physical Exam:
>> Admission Physical Exam: 
Vital Signs: 97.5 160 / 66 62 20 94 RA  
 General: Disheveled, poorly groomed, elderly male, no acute 
distress, lying in hospital bed comfortably  
 HEENT: Sclerae anicteric, green discharge present along medial 
aspects of eye b/l, mouth appears dry  
 Neck: Supple. JVP not elevated.  
 CV: Irregularly irregular. Normal S1+S2, ___ systolic murmur 
heard best at LUSB, no extra heart sounds or rub heard  
 Lungs: Clear to auscultation bilaterally with decreased breath 
sounds at the left base  
 Abdomen: Soft, NABS, non tender, non-distended, no 
rebound/guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: PERRL, EOMI, CN are grossly intact, he is able to move 
all four extremities spontaneously, he knows that it is in the 
200s, does not know the month or year, he is oriented to person 
and knows the examiner's role, repetition is intact, can follow 
commands, is able to name some objects such as tissue but refers 
to cell phone and stethoscope as microphone  . 
. 
>> Discharge Physical Exam: 
Vitals: 99.0 AdultAxillary 147 / 51 R Lying 67 17 91 RA 
HEENT: Hard of hearing, R > L. Appears dry, with crusting over 
eyes. No conjunctival injection, scleral icterus. 
Neck: Supple.
CV: Bradycardic, 50s. Intermittently regular. Systolic murmur 
II/VI. 
Lungs: Diminished at bases. 
Abdomen: Soft, NT/ND. 
Extremities: Trace L>R lower extremity edema. 
 
Pertinent Results:
>> Admission Labs: 
___ 09:05PM BLOOD WBC-4.3 RBC-3.63*# Hgb-11.8*# Hct-36.1*# 
MCV-99* MCH-32.5* MCHC-32.7 RDW-14.9 RDWSD-53.6* Plt ___
___ 09:05PM BLOOD Glucose-92 UreaN-31* Creat-1.5* Na-140 
K-5.0 Cl-106 HCO3-25 AnGap-14
___ 06:09AM BLOOD Calcium-8.2* Phos-3.2 Mg-2.0
___ 06:09AM BLOOD ___ 09:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-5* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:10PM BLOOD Lactate-1.4
. 
>> Discharge Labs:
___ 06:36AM BLOOD WBC-4.4 RBC-3.03* Hgb-9.5* Hct-30.8* 
MCV-102* MCH-31.4 MCHC-30.8* RDW-15.3 RDWSD-55.1* Plt ___
___ 06:09AM BLOOD Neuts-61.9 ___ Monos-8.9 Eos-1.5 
Baso-0.3 Im ___ AbsNeut-2.08 AbsLymp-0.89* AbsMono-0.30 
AbsEos-0.05 AbsBaso-0.01
___ 06:10AM BLOOD Glucose-91 UreaN-40* Creat-2.0* Na-143 
K-5.2* Cl-109* HCO3-24 AnGap-15
___ 06:10AM BLOOD Calcium-8.0* Phos-3.7 Mg-2.1
. 
>> Pertinent Reports: 
___ Imaging PELVIS (AP ONLY): Osseous demineralization 
and degenerative changes as described above without definitive 
evidence for fracture no evidence for dislocation. 

___ Imaging KNEE (AP, LAT & OBLIQUE: Osseous 
demineralization and degenerative changes as described above 
without acute fracture or dislocation. 

___ Imaging FOOT 2 VIEWS BILATERAL: 
-Severe diffuse osseous demineralization and degenerative 
changes as noted above. 
-Probable minimally displaced fracture involving the proximal 
phalanx of the second toe on the left. 
-No dislocation. 
-Linear regions of sclerosis involving the distal tibia 
bilaterally likely related to old healed fractures or subacute 
fractures with no periosteal reaction. 

___ Imaging CHEST (PA & LAT): Low lung volumes which 
accentuate bronchovascular markings.  Bibasilar opacities likely 
reflect mild pulmonary edema and atelectasis however infection 
should be considered in the appropriate clinical setting. 

___-SPINE W/O CONTRAST:
1. No acute fracture or acute change in alignment of the 
cervical spine.  No prevertebral soft tissue swelling. 
2. Moderate to severe multilevel degenerative changes noted in 
the cervical and upper thoracic spine, grossly unchanged when 
compared to the most recent ___. Moderate right pleural effusion incidentally noted. 

___ Imaging CT HEAD W/O CONTRAST: There is no evidence of 
acute large territorial infarction,hemorrhage,edema, or mass.  
The deep, subcortical, and periventricular white matter 
hypodensities are nonspecific and likely represent sequela of 
chronic microvascular ischemic changes.  There is prominence of 
the ventricles and sulci suggestive of involutional changes.  
Dense atherosclerotic calcifications of the cavernous carotid 
arteries are noted with mild atherosclerotic calcifications of 
the distal vertebral arteries demonstrated. There is no evidence 
of fracture.  Mild mucosal thickening of the ethmoid air cells 
and right maxillary sinus is demonstrated along with partial 
opacification of the inferior right mastoid air cells, findings 
suggestive of ongoing inflammation.  The visualized portion of 
the remaining paranasal sinuses, left mastoid air cells, and 
middle ear cavitiesare otherwise clear. The visualized portion 
of the orbits are unremarkable. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old male, with past history of CAD s/p 
CABG, paroxysmal atrial fibrillation not anticoagulated, 
bioprosthetic AVR, history of GI Bleed, now presenting with 
fall.
. 
>> ACTIVE ISSUES: 
# Gait Instability / Fall: Patient had history of potentially 
having increased weakness and a fall about 2 weeks prior to 
presentation, and was complaining of increased foot pain. 
Patient had been increasingly bed bound for the past 2 weeks 
because of this. Seen in the ED, underwent basic trauma workup 
which was negative for CT head, C-spine, CXR, knee x-ray. Foot 
x-ray remarkable for a mildly displaced fracture of the ___ toe. 
Podiatry was consulted, and recommended taping of toe with 
potential surgical shoe with ___. Given potential instability 
history, patient was monitored on telemetry without acute 
events, found to have AV delay with bradycardia with 
chronotropic competence, and likely reflected old conduction 
system that is intact. Patient does have history of 
bioprosthetic AVR, however unlikely to have change so TTE not 
obtained based on history. Patient also had other labs normal 
including B12, folate. ___ blood culture positive with coag 
negative staph, thought to be contaminant, and otherwise 
infectious workup negative. Patient worked with ___, and given 
extreme deconditioning especially with set back and 2 weeks of 
immobility, patient deemed candidate for rehab. 
. 
# Toxic Metabolic Encephalopathy: Suspected ___ to underlying 
cognitive disease as well as new environment. Patient maintained 
on home olanzapine 2.5 QHS. Patient otherwise workup negative 
for acute infectious process. 
. 
# CKD: Baseline Cr 1.8-2.2, patient was initially given IVF upon 
arrival as thought to be hypovolemic, and continued to maintain 
at baseline. 
. 
# Macrocytic Anemia: Suspect chronic disease. No evidence of B12 
or folate deficiency. 
. 
# Goals of Care: During hospitalization, discussed with family 
that patient has been declining at home. Given this, health care 
proxy had elected DNR/DNI, and MOLST form filed prior to 
discharge. 
.
>> TRANSITIONAL ISSUES: 
# Gait Instability: Patient to continue to work with ___ to 
regain ambulating strength. 
# Bradycardia: Currently not on nodal agents, positive 
competence and able to compensate heart rate. 
# Pending Labs: Blood Cultures (negative growth to date) upon 
discharge. 
# Foot Care: Patient to make appointment with podiatry as an 
outpatient. 
# MOLST: MOLST form filed during hospitalization and patient 
confirmed DNR/DNI. 
# Code Status: DNR/DNI
# Contact: Name of health care proxy: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. Cetirizine 10 mg PO DAILY 
4. OLANZapine 2.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  OLANZapine 2.5 mg PO QHS  
3.  Citalopram 20 mg PO DAILY  
4.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
1. Toe Fracture
2. Bradycardia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your hospital stay 
at ___. You were hospitalized 
for feeling unsteady on your feet. While in the hospital, we did 
an x-ray of your foot which showed a fracture of your toe. We 
fitted you with a surgical shoe to help with this. We also 
monitored your heart rates and you worked with our physical 
therapists to help regain some of your strength.

Please continue to follow up with your primary care physician, 
and specialists upon discharge from the hospital. Please 
continue to take your home medications as prescribed. 

Take Care,
Your ___ Team. 
 
Followup Instructions:
___